US05736539
1-tert-Butoxycarbonyl-4-(2,3-dimethylbenzoyl)-2(S)-(2-methylthioethyl)piperazine
The title compound was prepared according to the procedure described for Example 1, Step A except using 1-tert-butoxycarbonyl-2(S)-(2-methylthioethyl)piperazine (1.87 g, 7.19 mmol), 2,3-dimethylbenzoic acid (1.08 g, 7.19 mmol), HOBT (0.970 g, 7.19 mmol), EDC.HCl (1.64 g, 8.62 mmol) in methylene chloride (50 mL). Triethylamine was added to adjust the pH to 7. Chromatography on silica gel with 30% ethyl acetate in hexane afforded the title compound as a clear oil (2.51 g). NMR (DMSO-d6, 300 MHz) δ 6.9-7.3 (3H, m), 4.22-4.50 (2H, mm), 3.62-4.06 (2H, mm), 2.66-3.24 (4H, mm), 2.4 (1H, m), 2.24 (3H, s), 1.92-2.18 (6H, ms),1.4-1.8 (2H, m), 1.39 (9H, s).

reactant | 1-tert-butoxycarbonyl-2(S)-(2-methylthioethyl)piperazine | 7.19 mmol, 1.87 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCSC | C12H24N2O2S
reactant | 2,3-dimethylbenzoic acid | 7.19 mmol, 1.08 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | HOBT | 7.19 mmol, 0.970 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 8.62 mmol, 1.64 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | 1-tert-Butoxycarbonyl-4-(2,3-dimethylbenzoyl)-2(S)-(2-methylthioethyl)piperazine | 2.51 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C1=C(C(=CC=C1)C)C)=O)CCSC | C21H32N2O3S
